US05405861
In dichloromethane (200 ml) was dissolved (S)-(-)-ethyl lactate (35.4 g), to which was added, under ice-cooling, p-toluenesulfonic acid.hydrate (570 mg). To the mixture was added dropwise 3,4-dihyro-2H-pyran (30.2 g), taking 30 minutes, followed by stirring for one hour under ice-cooling. To the reaction mixture was added a 5% aqueous solution of sodium hydrogen carbonate (50 ml), which was vigorously stirred, then the organic layer was separated. The organic layer was further washed with a 5% aqueous solution of sodium hydrogen carbonate and dried over anhydrous magnesium sulfate, then the solvent was distilled off under reduced pressure to afford ethyl(2S)-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propionate (61 g) as a pale yellow oily product.

reactant | (S)-(-)-ethyl lactate | 35.4 g | C([C@@H](O)C)(=O)OCC | C5H10O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3,4-dihyro-2H-pyran | 30.2 g | O1CCCC=C1 | C5H8O
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | ethyl(2S)-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propionate | 61 g | O1C(CCCC1)O[C@H](C(=O)OCC)C | C10H18O4
